US07115600B2
2-{4-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl]-piperazin-1-yl}-pyrimidine
To a stirring solution of toluene-4-sulfonic acid 3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl ester (159.9 mg, 0.40 mmol) prepared above (Example 4, General Procedure A, Step G) in 2 mL of THF was added 1-(2-pyrimidyl)piperizine (136.2 mg, 0.8 mmol) followed by a solution of KOtBu (136 uL, 0.8 mmol, 1M THF). The reaction was heated to 70 □C (oil bath). After 1 hour DMF (1 mL) was added along with K2CO3 (2 eq). The reaction was then heated to 100 □C. After 3 hours the reaction was cooled to rt and concentrated under reduced pressure. The resulting mixture was diluted with CH2Cl2, quenched with a saturated aqueous solution of NaHCO3. The two layers were separated and the aqueous layer was back extracted with 3:1 chloroform:isopropyl alcohol. The combined organic layers were dried over MgSO4, filtered through a fritted funnel and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography using a 10 g ISCO column, eluting with a gradient of 5%, 10%, 20% MeOH/CH2Cl2 w/0.1% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound (70.0 mg, 44%) as a colorless oil, and a mixture of cis:trans isomers. The bis-HCl salt was generated by dissolving the title compound in EtOAc and then a solution of HCl (2 eq, 1M HCl, THF) was added. The colorless solid was collected and dried under reduced pressure.

reactant | toluene-4-sulfonic acid 3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl ester | 0.40 mmol, 159.9 mg | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)COS(=O)(=O)C1=CC=C(C=C1)C | C23H29NO3S
reactant | 1-(2-pyrimidyl)piperizine | 0.8 mmol, 136.2 mg | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | KOtBu | 0.8 mmol, 1M, 136 uL | CC(C)(C)[O-].[K+]
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{4-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethyl]-piperazin-1-yl}-pyrimidine | 70.0 mg, 44% | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)CN1CCN(CC1)C1=NC=CC=N1 | C24H33N5
